US07211573B2
A solution of 44.2 g (156 mmol) dibenzylamino-acetic acid ethyl ester in 300 ml tetrahydrofuran was stirred at −70° C. with 92.0 ml (184 mmol) lithium diisopropylamide (2M in heptane) for 60 minutes. 14.0 ml (184 mmol) cyclopropanecarboxaldehyde were added and stirring was continued overnight. The mixture was allowed to warm to room temperature an poured on saturated aqueous ammonium chloride. Extraction with diethyether and chromatography on silicagel with diethyether/heptane 1/2 yielded as first eluting fraction 17.1 g (31%) racemic (2R,3S and 2S,3R)-3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid ethyl ester, MS m/e (%): 354.1 (M+H+, 100) and as second eluting fraction 20.1 g (36%) racemic (2R,3R and 2S,3S)-3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid ethyl ester, MS m/e (%): 354.3 (M+H+, 100).

reactant | dibenzylamino-acetic acid ethyl ester | 156 mmol, 44.2 g | C(C)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C18H21NO2
reactant | lithium diisopropylamide | 184 mmol, 2M, 92.0 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclopropanecarboxaldehyde | 184 mmol, 14.0 ml | C1(CC1)C=O | C4H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-cyclopropyl-2-dibenzylamino-3-hydroxy-propionic acid ethyl ester | C(C)OC(C(C(O)C1CC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C22H27NO3
